US07763562B2
Under an argon atmosphere, a mixture of 2.79 g (30 mmol) of aniline, 14.5 g (60 mmol) of 4-bromo-1-methoxy-2-methylindane, 20.2 g (180 mmol) of tBuOK, 30 ml of 0.2 M (6.0 mmol) solution of PtBu3 in toluene, and 180 ml toluene, 0.67 g (3.0 mmol) of Pd(OAc)2 was added. This mixture was stirred for 8 hours at 100° C. Then, this mixture was washed with 600 ml of water, and organic layer was separated. The aqueous layer was extracted with 3×150 ml of methyl-tert-butyl ether. To the combined extract, 250 ml of methanol and 150 ml of 10 M HCl were added; and the resulting mixture was refluxed for 7 hours. Sodium bicarbonate (ca. 130 g) was added in small portions until carbon dioxide evolved. The product, N,N-bis(2-methyl-1H-inden-7-yl)-N-phenylamine, was isolated by flash chromatography on Silica Gel 60 (40-63 μm, d 50 mm, l 400 mm, eluant:hexanes-dichloromethane=1:1, vol.) Yield, 7.84 g (80%) of a yellowish oil.

reactant | aniline | 30 mmol, 2.79 g | NC1=CC=CC=C1 | C6H7N
reactant | 4-bromo-1-methoxy-2-methylindane | 60 mmol, 14.5 g | BrC1=C2CC(C(C2=CC=C1)OC)C | C11H13BrO
reactant | tBuOK | 180 mmol, 20.2 g | C(C)(C)(C)O[K]
reactant | PtBu3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 3.0 mmol, 0.67 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N,N-bis(2-methyl-1H-inden-7-yl)-N-phenylamine | CC=1CC2=C(C=CC=C2C1)N(C1=CC=CC=C1)C=1C=CC=C2C=C(CC12)C | C26H23N
